US07037916B2
A mixture of 2-(2-chloro-6-propyl-pyrimidin-4-ylamino)-4-methyl-pentanoic acid (3-ethoxy-propyl)-amide (31.4 mg), 4-(trifluoromethoxy)phenylboronic acid (19 mg), sodium carbonate (0.4M aqueous solution, 0.5 mL), and acetonitrile (0.5 mL) was degassed with argon for five minutes. Tetrakis(triphenylphosphine) palladium(0) was added and the mixture was heated to 80° C. for 4 hours. The reaction mixture was taken up in ethyl acetate, washed twice with brine, and the volatiles were removed in vacuo. The product was purified on silica gel, using 50% ethyl acetate/hexanes as the mobile phase, to give 13.5 mg of 4-methyl-2-[6-propyl-2-(4-trifluoromethoxyphenyl)pyrimidin-4-ylamino] pentanoic acid (3-ethoxypropyl) amide. ESI-MS (m/z) 497 [M+H]+.

reactant | 2-(2-chloro-6-propyl-pyrimidin-4-ylamino)-4-methyl-pentanoic acid (3-ethoxy-propyl)-amide | 31.4 mg | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)CCC)Cl)=O | C18H31ClN4O2
reactant | 4-(trifluoromethoxy)phenylboronic acid | 19 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 0.4M, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 4-methyl-2-[6-propyl-2-(4-trifluoromethoxyphenyl)pyrimidin-4-ylamino] pentanoic acid (3-ethoxypropyl) amide | 13.5 mg | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)CCC)C1=CC=C(C=C1)OC(F)(F)F)=O | C25H35F3N4O3
